US06410539B1
4-Fluorophenylboronic acid (6.72 g; 0.048 mol) was added to a suspension of 2-bromo-4-nitrotoluene (6.9 g; 0.032 mol) and tetrakis(triphenylphosphine) palladium (1.5 g; 1.4 mmol) in DME (90 ml). After addition of aqueous sodium carbonate solution 2M (120 ml), the mixture was refluxed overnight. After extraction with ether and evaporation, the residue was purified by flash chromatography (ethyl acetate/petroleum ether 95/5 to give 2-(4-fluorophenyl)-4-nitrotoluene (6.66 g; 90%).

reactant | 4-Fluorophenylboronic acid | 0.048 mol, 6.72 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-bromo-4-nitrotoluene | 0.032 mol, 6.9 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | sodium carbonate | 2M, 120 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 90 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 1.4 mmol, 1.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-fluorophenyl)-4-nitrotoluene | 6.66 g, 90% | FC1=CC=C(C=C1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C13H10FNO2
